US04873236
11-[[[2-[4-[3-(Diethylamino)propyl]-piperidin-1-yl]ethyl]amino]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Prepared analogously to Example 2 from 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 2[4-[3-(diethylamino)propyl]-piperidin-1-yl]ethanamine in yield of 92% of theory. Colourless crystals, m.p. 165°-166° C. (ethyl acetate).

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 2[4-[3-(diethylamino)propyl]-piperidin-1-yl]ethanamine | C(C)N(CCCC1CCN(CC1)CCN)CC | C14H31N3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 11-[[[2-[4-[3-(Diethylamino)propyl]-piperidin-1-yl]ethyl]amino]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | yield of 92% | C(C)N(CCCC1CCN(CC1)CCNC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2)CC | C27H38N6O2
